US07067658B2
To a solution of 2-benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454, which is incorporated herein by reference)(5 g, 18.9 mmol) in DME/H2O, was added 2,4-dichlorophenylboronic acid (3.60 g, 18.9 mmol), Ba(OH)2 0.8H2O (5.96 g, 18.9 mmol), and Pd(PPh3)2Cl2 (0.77 g, 1.09 mmol) and the mixture was heated at reflux for 5 h. The reaction was cooled and poured into EtOAc and H2O (500 mL). The EtOAc layer was washed with H2O, brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification using flash chromatography (10% EtOAc-Hexane) gave 5.79 g (82%) of 2-benzyloxy-4-(2,4-dichloro-phenyl)-3-nitro-pyridine as a viscous oil: crude MS (AP) m/z 375.2 [(M+H)+, 100].

reactant | 2-benzyloxy-4-chloro-3-nitro-pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2,4-dichlorophenylboronic acid | 18.9 mmol, 3.60 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | 500 mL | O | H2O
solvent | DME H2O | COCCOC.O
catalyst | Pd(PPh3)2Cl2 | 1.09 mmol, 0.77 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-benzyloxy-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 5.79 g, 82% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C18H12Cl2N2O3
